US06166031
7-Benzyloxy-3,4-dihydro-4-(cyclopentyl)methoxy-1-benzoxepin-5 (2H)-one
To a solution of 1.5 g of (cyclopentyl)methanol in 50 ml of tetrahydrofuran is added 720 mg of 50% sodium hydride. After stirring until evolution of H2 is substantially complete (about 30 minutes), a solution of 4.5 g of crude 7-benzyloxy-4-bromo-3,4-dihydro-1-benzoxepin-5 (2H)-one is added. The reaction is allowed to stir at room temperature for 5 hours. The tetrahydrofuran is evaporated in vacuo, and the residue dissolved in ethyl acetate and washed with water. The ethyl acetate layer is dried over sodium sulfate and evaporated in vacuo to yield present title product.

reactant | (cyclopentyl)methanol | 1.5 g | C1(CCCC1)CO | C6H12O
reactant | sodium hydride | 720 mg | [H-].[Na+]
reactant | 7-benzyloxy-4-bromo-3,4-dihydro-1-benzoxepin-5 (2H)-one | 4.5 g | C(C1=CC=CC=C1)OC=1C=CC2=C(C(C(CCO2)Br)=O)C1 | C17H15BrO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 7-Benzyloxy-3,4-dihydro-4-(cyclopentyl)methoxy-1-benzoxepin-5 (2H)-one | C(C1=CC=CC=C1)OC=1C=CC2=C(C(C(CCO2)OCC2CCCC2)=O)C1 | C23H26O4
